US08067448B2
2-Chloro-4-((1R,2S)-2-hydroxy-1-(5-methyl-1,3,4-oxadiazol-2-yl)propylamino)-3-methylbenzonitrile
To a pre-cooled (−45° C.) solution of 4-((1R,2S)-2-(tert-butyldimethylsilyloxy)-1-(5-methyl-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile (2.90 g, 6.89 mmol) in THF (28 mL) was added TBAF (8.27 mL, 1 M solution in THF) over 1 minute. Upon complete addition, the reaction mixture was allowed to warm to 0° C. and concentrated under reduced pressure. The resulting orange residue was taken up in EtOAc (100 mL) and washed with H2O (400 mL). The biphasic mixture was separated and the aqueous layer extracted with EtOAc (2×50 mL). The combined organic layers were washed with brine (1×300 mL), dried (Na2SO4), filtered and concentrated under reduced pressure to provide a yellow/orange oil, which was purified by flash chromatography over silica gel (50% EtOAc in hexanes) to provide the title compound as a yellow solid (2.0 g, 95%): mp: 181-183° C.; 1H NMR (400 MHz, DMSO-d6, δ in ppm) 7.48 (d, J=8.0 Hz, 1H), 6.80 (d, J=8.0 Hz, 1H), 5.75 (d, J=8.8 Hz, 1H), 4.92 (dd, J=6.0, 8.8 Hz, 1H), 4.42 (m, 1H), 2.44 (s, 3H), 2.33 (s, 3H), 1.33 (d, J=6.4 Hz).

reactant | 4-((1R,2S)-2-(tert-butyldimethylsilyloxy)-1-(5-methyl-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile | 6.89 mmol, 2.90 g | [Si](C)(C)(C(C)(C)C)O[C@H]([C@H](C=1OC(=NN1)C)NC1=C(C(=C(C#N)C=C1)Cl)C)C | C20H29ClN4O2Si
reactant | TBAF | 1 M, 8.27 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 28 mL | C1CCOC1 | C4H8O
product | 2-Chloro-4-((1R,2S)-2-hydroxy-1-(5-methyl-1,3,4-oxadiazol-2-yl)propylamino)-3-methylbenzonitrile | 2.0 g, 95% | ClC1=C(C#N)C=CC(=C1C)N[C@H]([C@H](C)O)C=1OC(=NN1)C | C14H15ClN4O2
